US07312358B2
N-({[(3,4-Dimethoxyphenyl)sulfonyl]-4-fluoroanilino}acetyl)valine
Following the general method as outlined in Example 75, starting from N-fmoc-3-methyl-2-methylamino-butyric acid, methyl bromoacetate, 4-fluoroaniline and 3,4-dimethoxybenzenesulfonyl chloride, the title compound was obtained in >60% purity by LC/MS. (ESI+): 483.

reactant | N-fmoc-3-methyl-2-methylamino-butyric acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(C(C(=O)O)C(C)C)C | C21H23NO4
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3,4-dimethoxybenzenesulfonyl chloride | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
product | N-({[(3,4-Dimethoxyphenyl)sulfonyl]-4-fluoroanilino}acetyl)valine | COC=1C=C(C=CC1OC)S(=O)(=O)N(C1=CC=C(C=C1)F)CC(=O)N[C@@H](C(C)C)C(=O)O | C21H25FN2O7S
